### PR TITLE
StateFacts for ctrees

### PR DESCRIPTION
**Pull request by elefthei**
@YaZko committed the progress we made today, the file is `theories/Interp/State.v`

### CODE REVIEW

File: theories/State.v [hunk 1]
```diff
@@ -52,9 +59,275 @@ Section State.
...
+  end.
+
+                          Lemma unfold_interp_state {E F R} (h : E ~> Monads.stateT S (ctree F))
+        (t : ctree E R) s :
+    interp_state h t s ≅ _interp_state h (observe t) s.
+  Proof.
+    unfold interp_state, interp, Basics.iter, MonadIter_stateT0, Basics.iter, MonadIter_ctree; cbn.
+    rewrite unfold_iter; cbn.
+    destruct observe; cbn.
+    - rewrite 2 bind_ret_l. reflexivity.
```
Comment (elefthei) [inline theories/State.v:81]: @YaZko this one takes 30s...

File: theories/Eq/SBisim.v [hunk 2]
```diff
@@ -881,6 +1076,19 @@ Invisible taus can be stripped-out w.r.t. to [sbisim], but not visible ones
     apply step_sb_tauV; auto.
   Qed.
 
+  (** Choices *)
```
Comment (elefthei) [inline theories/Eq/SBisim.v:1079]: @YaZko here

Comment (YaZko) [reply theories/Eq/SBisim.v:864]: I'm surprised you ever need `sb_choiceI1`, I would assume unary choices are always introduced as taus?
I renamed in master (because I merged and then looked instead of the other way around stupidly) `sb_choiceI_l` into `sb_choiceI_idempotent`.
I removed `sb_choiceI_r` since I would imagined it's meant to be used for rewriting on a side, so having both is unecessary and we have not duplicated by symmetry the other equations so far.

File: theories/Eq/SBisim.v [hunk 3]
```diff
@@ -939,6 +948,15 @@ Ltac sstep := sret || svis || stauv.
 
  *)
```
Comment (YaZko) [inline theories/Eq/SBisim.v:950]: This is already `sb_choiceV_id`
